US05663440
In a 10-liters three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 1300 g (9.75 mole) of aluminum chloride and 4.2 liters of 1,2-dichloroethane were mixed, and 1323 g (7.13 mole) of paranitrobenzoyl chloride was introduced with ice cooling to be dissolved. After warming the reaction solution to 47° C., a solution of 500 g (2.97 mole) of diphenylmethane in 500 milliliters of 1,2-dichloroethane was added dropwise for 3 hours and 30 minutes. After the dropwise addition was ended, the solution was stirred at 50° C. for 4 hours. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was poured in 7 liters of ice water, and then extracted with 7 liters of chloroform. The solution was washed with a 6N-HCl aqueous solution, an aqueous solution of sodium hydrogencarbonate, brine and water, and then dried with magnesium sulfate. After removing off chloroform by a rotary evaporator, filtration was carried out when crystals being deposited sufficiently. Filtered substances were treated with a silica gel column and recrystallized from chloroform/ethyl acetate, to obtain 867 g of 1,1-bis(4-(4-nitrobenzoyl)phenyl)methane as crystals.

reactant | aluminum chloride | 9.75 mole, 1300 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | paranitrobenzoyl chloride | 7.13 mole, 1323 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | diphenylmethane | 2.97 mole, 500 g | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
solvent | 1,2-dichloroethane | 500 milliliters | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 4.2 liters | ClCCCl | C2H4Cl2
product | 1,1-bis(4-(4-nitrobenzoyl)phenyl)methane | 867 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)CC2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C27H18N2O6
